US08293768B2
Synthesis of ethyl 2-(3-(cyclobutylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 10, making variations as required to replace cyclopropylmethyl bromide with (bromomethyl)cyclobutane to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 88% yield: 1H NMR (300 MHz, CDCl3) δ 4.29-3.96 (m, 4H), 3.60-3.23 (m, 4H), 2.63-2.48 (m, 4H), 2.09-2.02 (m, 2H), 1.93-1.83 (m, 2H), 1.77-1.68 (m, 2H), 1.26 (t, J=7.3 Hz, 3H); MS (ES+) m/z 324.3 (M+1).

reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
reactant | (bromomethyl)cyclobutane | BrCC1CCC1 | C5H9Br
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-(cyclobutylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 88% yield | C1(CCC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C15H21N3O3S
